### ISSUE TITLE
simp fails to handle recursors

### ISSUE THREAD

**Issue by JasonGross** [leanprover/lean3#2004]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

```lean
@[simp]
def fact (n : ℕ) : ℕ :=
  nat.rec
    1
    (λ n' fact_n', (nat.succ n') * fact_n')
    n

example : fact 5 = 5 :=
begin
  simp [fact,has_mul.mul,nat.mul],
  simp [nat.rec]
-- 11:3: invalid simplification lemma 'nat.rec' (use command 'set_option trace.simp_lemmas true' for more details)
-- state:
-- ⊢ nat.rec 1 (λ (n' : ℕ), nat.mul (nat.succ n')) 5 = 5
end
```
If I remove `[nat.rec]`, then instead I get the error:
```
11:3: simplify tactic failed to simplify
state:
⊢ nat.rec 1 (λ (n' : ℕ), nat.mul (nat.succ n')) 5 = 5
```

How am I supposed to simplify recursion?

**Expected behavior:** `simp` reduces things like `nat.rec`, `int.rec`, `list.rec`, etc

**Actual behavior:** `simp` does not reduce these things

**Reproduces how often:** [What percentage of the time does it reproduce?] 100%

### Versions

```
$ lean --version
Lean (version 3.4.2, commit cbd2b6686ddb, Release)
$ lsb_release -a
No LSB modules are available.
Distributor ID: Ubuntu
Description:    Ubuntu 16.04.6 LTS
Release:        16.04
Codename:       xenial
$ uname -a
Linux jgross-Leopard-WS 4.4.0-161-generic #189-Ubuntu SMP Tue Aug 27 08:10:16 UTC 2019 x86_64 x86_64 x86_64 GNU/Linux
```

**Comment by fpvandoorn** [comment]
Hmm... There are a couple things going on here. I'm also replying to #2005 

* First of all, this is very un-idiomatic Lean. Much better would be to do
```lean
def fact : ℕ → ℕ
| 0     := 1
| (n+1) := (n+1) * fact n 

example : fact 5 = 5 :=
begin
  rw [fact], 
  simp [fact], 
end
```
What's happening here is that when you define a definition using the equation compiler, Lean will automatically generate the corresponding rewrite rules for each case, and use those when you call `rw`/`simp`. 
If you don't use the equation compiler, you are encouraged to write those lemmas yourself for your definition of `fact`, and not rely on unfolding your definition.
* If this solution is not satisfactory to you, it is a bit hard to guess what you actually want. If you want to reduce this actual definition, without generating extra lemmas something like this works, but it is discouraged:
```lean
def fact (n : ℕ) : ℕ :=
  nat.rec
    1
    (λ n' fact_n', (nat.succ n') * fact_n')
    n

example : fact 5 = 5 :=
begin
  dsimp only [nat.has_one, bit0, bit1, nat.has_add, nat.add, nat.has_zero, fact],
end
```
* Numerals in Lean can be pretty complex, internally. To see the actual expression a numeral is, use `set_option pp.numerals false`.
* The best place to ask questions like this is the Zulip chat: https://leanprover.zulipchat.com/ We're happy to help there!

**Comment by cipher1024** [comment]
Also, I'd like to add that development on Lean 3 have moved to https://github.com/leanprover-community/lean. This is where we put bug fixes and new features.
